US08309593B2
Preparation of AII: benzyl (1R,2R)-1,3-dihydroxy-1-(4-methoxyphenyl)propan-2-ylcarbamate
A mixture of benzyl 4-(hydroxy-(4-methoxyphenyl)methyl)-2,2-dimethyloxazolidine-3-carboxylate (1.679 g, 4.5 mmol) and amberlyst 15 (1.85 g) in MeOH (20 mL) was stirred at room temperature for 2 days. The mixture was centrifuged and the solid was washed with MeOH (2×40 mL). The solvent was removed to dryness and after purification by column chromatography (SiO2 using a mixture of CH2Cl2/EtOAc) the product was obtained as a white solid (1.26 g, 84% yield).

reactant | benzyl 4-(hydroxy-(4-methoxyphenyl)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 4.5 mmol, 1.679 g | OC(C1N(C(OC1)(C)C)C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)OC | C21H25NO5
solvent | MeOH | 20 mL | CO | CH4O
product | benzyl (1R,2R)-1,3-dihydroxy-1-(4-methoxyphenyl)propan-2-ylcarbamate | 1.26 g, 84% yield | O[C@@H]([C@@H](CO)NC(OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C18H21NO5
